US07241785B2
To a solution of ethyl 3-benzyloxy-1-phenyl-1H-pyrazole-4-carboxylate (8.06 g) in tetrahydrofuran (100 ml) was added aluminum lithium hydride (0.95 g) at 0° C. and the mixture was stirred at room temperature for 1 hr. Sodium sulfate 10 hydrate (8.06 g) was added to the reaction mixture and the mixture was stirred at room temperature for 1 hr. The precipitate was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and (3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)methanol (5.91 g, yield 84%) was obtained as colorless crystals from a fraction eluted with ethyl acetate. The crystals were recrystallized from ethyl acetate-hexane. melting point: 93–94° C.

reactant | ethyl 3-benzyloxy-1-phenyl-1H-pyrazole-4-carboxylate | 8.06 g | C(C1=CC=CC=C1)OC1=NN(C=C1C(=O)OCC)C1=CC=CC=C1 | C19H18N2O3
reactant | aluminum lithium hydride | 0.95 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | Sodium sulfate 10 hydrate | 8.06 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)methanol | 5.91 g, yield 84% | C(C1=CC=CC=C1)OC1=NN(C=C1CO)C1=CC=CC=C1 | C17H16N2O2
